US07319099B2
(a) 2,3,5,6-Tetrahydro-[1,2′]bipyrazinyl-4,5′-dicarboxylic acid 4-tert-butyl ester 5′-methyl ester
A mixture of 17 mmol methyl-5-chloropyrazine-2-carboxylate, 18 mmol of N-BOC-piperazine and 20 mmol of K2CO3 in 20 ml of acetonitrile was heated under reflux for 3 hours. The reaction mixture was concentrated, diluted with water and extracted with ethyl acetate. The title compound was recrystallized from ethyl acetate to yield a colorless solid. MS (m/e): 323.4 (MH+, 100%)

reactant | methyl-5-chloropyrazine-2-carboxylate | 17 mmol | COC(=O)C1=NC=C(N=C1)Cl | C6H5ClN2O2
reactant | N-BOC-piperazine | 18 mmol | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | K2CO3 | 20 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,3,5,6-Tetrahydro-[1,2′]bipyrazinyl-4,5′-dicarboxylic acid 4-tert-butyl ester 5′-methyl ester | COC(=O)C=1N=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O4
